US06303628B1
Methyl [6—chloro-2-[(5,6,7,8-tetrahydroisoquinolin-3yl)carbonyl]-1H-indol-3-yl]acetate
To a solution of methyl trans-4-chloro-2-aminocinnamate (R. W. Carling et al., J.Med.Chem., 1993, 36, 3397., 30.7 g, 0.15 mol) and pyridine (36 ml, 0.45 mol) in dichloromethane (500 ml) was added benzenesulfonyl chloride (20 ml, 0.16 mol). After stirring for 20 h, methanol (50 ml) was added and the mixture was concentrated. The residual solids were dissolved in dichloromethane (700 ml) and washed with 2N aqueous HCl (150 ml), brine (150 ml) and dried (MgSO4). After removal of solvent, the residual solids were recrystallized from ethanol to give 40 g (76%) of the title compound as pale yellow solids.

reactant | methyl trans-4-chloro-2-aminocinnamate | 0.15 mol, 30.7 g | ClC1=CC(=C(/C=C/C(=O)OC)C=C1)N | C10H10ClNO2
reactant | pyridine | 0.45 mol, 36 ml | N1=CC=CC=C1 | C5H5N
reactant | benzenesulfonyl chloride | 0.16 mol, 20 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | methanol | 50 ml | CO | CH4O
reactant | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | Methyl [6—chloro-2-[(5,6,7,8-tetrahydroisoquinolin-3yl)carbonyl]-1H-indol-3-yl]acetate | 40 g, 76% | ClC1=CC=C2C(=C(NC2=C1)C(=O)C=1N=CC=2CCCCC2C1)CC(=O)OC | C21H19ClN2O3
